US09399636B2
Step 1: tert-butyl 3-(2,6-dichloropyridin-4-yl)-2,5-dihydro-1H-pyrrole-1-carboxylate
To a mixture of 2,6-dichloro-4-iodo-pyridine (500 mg, 1.826 mmol), tert-butyl 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2,5-dihydropyrrole-1-carboxylate (646.7 mg, 2.191 mmol, 1.2 equiv.), potassium carbonate (510 mg, 3.651 mmol, 2 equiv.), and PD(dppf)Cl2 DCM (223.6 mg, 0.274 mmol, 0.15 equiv.) in 1,4-dioxane (6 mL) and water (2 mL) was capped in a large CEM vial, de-gassed with N2, heated in oil bath @ 65° C. o/n. It was diluted with water, extracted with EtOAc (2×50 mL), dried over Na2SO4, filtered, concentrated in vacuo. Purification by column chromatography (ISCO), 40 g column, eluded with 0-10% EtOAc/Heptane to afford 304 mg (52.8%) of product as white foam. 1H NMR (400 MHz, CDCl3) δ 7.42 (s, 0.5H), 7.22 (s, 0.5H), 7.04 (s, 2H), 3.93 (s, 2H), 2.90 (s, 2H), 1.53 (s, 9H). LC-MS: m/z=316 (M+H+).

reactant | 2,6-dichloro-4-iodo-pyridine | 1.826 mmol, 500 mg | ClC1=NC(=CC(=C1)I)Cl | C5H2Cl2IN
reactant | tert-butyl 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2,5-dihydropyrrole-1-carboxylate | 2.191 mmol, 646.7 mg, 1.2 equiv. | CC1(OB(OC1(C)C)C=1CN(CC1)C(=O)OC(C)(C)C)C | C15H26BNO4
reactant | potassium carbonate | 3.651 mmol, 510 mg, 2 equiv. | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 6 mL | O1CCOCC1 | C4H8O2
solvent | water | 2 mL | O | H2O
product | tert-butyl 3-(2,6-dichloropyridin-4-yl)-2,5-dihydro-1H-pyrrole-1-carboxylate | 304 mg, 52.8% | ClC1=NC(=CC(=C1)C=1CN(CC1)C(=O)OC(C)(C)C)Cl | C14H16Cl2N2O2
